US07781454B2
Step 3: t-butyl 5-(acetyloxy)-3,4-dihydroquinoline-1(2H)-carboxylate
To a cooled (0° C.) solution of 1,2,3,4-tetrahydroquinolin-5-yl acetate (5 g, 26.1 mmol) in 50 mL of acetonitrile was added TEA (3.46 mL, 26.1 mmol) followed by DMAP (3.19 g, 26.1 mmol). The mixture was stirred for 10 minutes after which Boc anhydride (11.4 g, 52.3 mmol) dissolved in acetonitrile (50 mL) was added. The mixture was warmed to room temperature and held at room temperature overnight. The reaction mixture was then diluted with EtOAc, washed successively with water and brine, dried over sodium sulfate, and concentrated. The crude Boc protected dihydroquinoline was purified on a silica gel column (5% to 35% EtOAc/hexanes) to afford the title product.

reactant | 1,2,3,4-tetrahydroquinolin-5-yl acetate | 26.1 mmol, 5 g | C(C)(=O)OC1=C2CCCNC2=CC=C1 | C11H13NO2
reactant | Boc anhydride | 52.3 mmol, 11.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | DMAP | 26.1 mmol, 3.19 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | t-butyl 5-(acetyloxy)-3,4-dihydroquinoline-1(2H)-carboxylate | C(C)(=O)OC1=C2CCCN(C2=CC=C1)C(=O)OC(C)(C)C | C16H21NO4
